* /home/edeelep/esim-workspace/sc_test/sc_test.cir

.include NPN.lib
.include schottky.lib
* u3  clk net-_u1-pad1_ adc_bridge_1
* u4  net-_u1-pad2_ pwm dac_bridge_1
v1  clk gnd pulse(0 5 0 1n 1n 30n 50n)
v2 vin gnd  dc 12
l1  vin net-_d1-pad1_ 100u
q1 net-_d1-pad1_ pwm gnd Q2N2222
c1  vout gnd 100u
r1  vout gnd 100
* u7  vout plot_v1
* u5  pwm plot_v1
* u2  clk plot_v1
* u6  vin plot_v1
d1 net-_d1-pad1_ vout 1N5819
* u1  net-_u1-pad1_ net-_u1-pad2_ yt_pwm
a1 [clk ] [net-_u1-pad1_ ] u3
a2 [net-_u1-pad2_ ] [pwm ] u4
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             yt_pwm, NgSpice Name: yt_pwm
.model u1 yt_pwm(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 3e-03 15e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(pwm)
plot v(clk)
plot v(vin)
.endc
.end
